US04774248
Preparation of 5-hydroxy-5-phenyl-1,4,5,6-tetrahydropyrimidine hydrochloride (Example 8; Code No.: CRL 41 382)
A mixture consisting of 5.56 g (0.0335 mol) of 1,3-diamino-2-phenylpropan-2-ol dihydrochloride (m.p. (inst.)=242° C.) and 2.479 g (0.0335 mol; 2.7 ml) of ethyl formate is heated at 100° C. for 3 h. It is then heated at 100° C. under reduced pressure (vacuum obtained by means of a water-jet pump) for 1 h. The reaction medium is cooled, taken up with CH3OH, acidified with ethanol containing HCl and evaporated to dryness, and the evaporation residue is triturated with ether, acetone and chloroform. The precipitate formed is collected by filtration and then recrystallized from an ethanol/diethyl ether mixture (1:1 v/v) to give 6 g (yield: 84%) of CRL 41 382. M.p. (inst.)=206° C.

reactant | 1,3-diamino-2-phenylpropan-2-ol dihydrochloride | 0.0335 mol, 5.56 g | Cl.Cl.NCC(CN)(O)C1=CC=CC=C1
reactant | ethyl formate | 0.0335 mol, 2.7 ml, 2.479 g | C(=O)OCC | C3H6O2
reactant | water | O | H2O
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | CH3OH | CO | CH4O
product | 5-hydroxy-5-phenyl-1,4,5,6-tetrahydropyrimidine hydrochloride | yield: 84% | Cl.OC1(CN=CNC1)C1=CC=CC=C1 | InChI=1S/C10H12N2O.ClH/c13-10(6-11-8-12-7-10)9-4-2-1-3-5-9;/h1-5,8,13H,6-7H2,(H,11,12);1H
